* source 10_84
C_C1         N00196 N00355  0.5  TC=0,0 
L_L1         N00196 N00229  4  
I_I1         N00196 0 DC 0Adc AC 3Aac 
R_R1         0 N00229  1 TC=0,0 
R_R2         0 N00355  2 TC=0,0 
           
.PRINT         AC 
+ VM([N00355]) 
+ VP([N00355])    
G_G1         N00355 N00229 N00229 0 2
