* source 12_59
V_V1         N00321 N00277 DC 0Vdc AC 100Vac 0
V_V2         N00314 N00277 DC 0Vdc AC 100Vac 120
V_V3         N00291 N00277 DC 0Vdc AC 100Vac -120
           
.PRINT         AC 
+ VM([N00291]) 
+ VP([N00291])    
R_R1         N00291 0  40 TC=0,0 
C_C1         0 N00321  0.2mF  TC=0,0 
L_L1         N00314 0  10mH  
           
.PRINT         AC 
+ VM([N00321]) 
+ VP([N00321])    
           
.PRINT         AC 
+ VM([N00314]) 
+ VP([N00314])    
