* source 13_78
V_V1         N00213 0 DC 0Vdc AC 100Vac -30
R_R1         N00221 N000670  20 TC=0,0 
V_PRINT1         N00213 N00221 0V
          
.PRINT        AC 
+ IM(V_PRINT1) 
+ IP(V_PRINT1)    
L_L1         N000670 N00228  80  
L_L2         N00232 N00228  60  
V_PRINT2         N00232 N00238 0V
          
.PRINT        AC 
+ IM(V_PRINT2) 
+ IP(V_PRINT2)    
R_R2         0 N00238  50 TC=0,0 
R_R3         0 N00228  40 TC=0,0 
Kn_K1         L_L1 L_L2     0.5
