* source 3_75
R_R1         N00124 N00131  30 TC=0,0 
R_R2         N00124 N00361  10 TC=0,0 
R_R3         N00361 N00131  10 TC=0,0 
R_R4         0 N00124  30 TC=0,0 
R_R5         0 N00131  30 TC=0,0 
V_V1         N00361 0 120Vdc
