* source 4_78
V_V1         N00067 0 6Vdc
R_R1         N00067 N00211  3k TC=0,0 
X_F1    N00211 0 N00378 0 SCHEMATIC1_F1 
R_R2         N00378 0  2k TC=0,0 
I_I1         0 N00378 DC 0Adc  

.subckt SCHEMATIC1_F1 1 2 3 4  
F_F1         3 4 VF_F1 20
VF_F1         1 2 0V
.ends SCHEMATIC1_F1
