* source 7_78
V_V1         N00142 0 108Vdc
R_R1         N00142 N00149  3 TC=0,0 
R_R2         N00149 0  6 TC=0,0 
R_R3         N00149 N00153  4 TC=0,0 
L_L1         N00153 0  2 IC=7.714 
