* source 8_70
V_V1         N00151 0 24V
R_R1         N00151 N00158  6 TC=0,0 
L_L1         N00158 N00162  2H IC=0 
R_R2         0 N00162  3 TC=0,0 
C_C1         0 N00162  0.4 IC=0 TC=0,0 
