* source 1
R_R1         N14523 N14348  1k TC=0,0 
C_C1         N14348 0  100n IC=0 TC=0,0 
V_V1         N14523 0  
+PULSE -1 1 0.0005 0.00001 0.00001 0.0005 0.001
C_C2         N15492 0  0.82n IC=0 TC=0,0 
R_R2         N15627 N15492  10000 TC=0,0 
V_V2         N15488 0  
+PULSE -1 1 0.0001 0.00001 0.00001 0.0001 0.0002
L_L1         N15488 N15627  0.001H IC=0 
