* source LAB2
R_R1         N00159 N00170  49.9 TC=0,0 
X_U1         0 N00170 V+ V- N00212 LM741
R_RF         N00170 N00212  99.9 TC=0,0 
R_R2         0 N00212  1k TC=0,0 
V_V1         N00159 0 1
