* source TRIAL
X_U2         N01462 N01384 V+ V- N01392 LM741
V_V1         N01462 0 1
R_R4         0 N01392  1k TC=0,0 
R_RF1         N01384 N01392  99.9 TC=0,0 
R_R3         0 N01384  49.9 TC=0,0 
