* source HW5
V_V1         N14501 0 180
X_U1         0 N14526 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U2         N14501 N14508 Sw_tOpen PARAMS: tOpen=1 ttran=1u Rclosed=0.01
+  Ropen=1Meg
R_R1         N14508 N14512  6 TC=0,0 
R_R2         N14526 N14519  3 TC=0,0 
R_R3         N14512 N14552  4 TC=0,0 
R_R5         N14519 N14512  6 TC=0,0 
L_L1         N14519 N14552  2  
